US07381728B2
Step 1: 6-Chloro-3-pyridinesulfonic acid sodium salt
A solution of 6-chloro-3-pyridinesulfonyl chloride (5.0 g, 24 mmol) (C. Rath. Annalen. 1931, 487, 105-119) in dioxane (10 ml) and the solution cooled to 0° C. A solution of sodium hydroxide (1.88 g, 47 mmol) in water (20 ml) was added drop-wise to the stirred solution over 10 mins. After another 10 mins 0.5 pellet of NaOH was added and after a further 15 minutes the pH was adjusted to pH 7 with 2M hydrochloric acid and the solvent was vacuumed down. The material was dried on a Dean and Stark trap to give the title compound. MS (ES−) 192/194 [M−H]−.

reactant | 6-chloro-3-pyridinesulfonyl chloride | 24 mmol, 5.0 g | ClC1=CC=C(C=N1)S(=O)(=O)Cl | C5H3Cl2NO2S
reactant | sodium hydroxide | 47 mmol, 1.88 g | [OH-].[Na+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 20 ml | O | H2O
product | 6-Chloro-3-pyridinesulfonic acid sodium salt | [Na+].ClC1=CC=C(C=N1)S(=O)(=O)[O-] | InChI=1S/C5H4ClNO3S.Na/c6-5-2-1-4(3-7-5)11(8,9)10;/h1-3H,(H,8,9,10);/q;+1/p-1
